US08350028B2
N6-Cyclopropylmethyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,6-diamine
The title compound, MS: m/e=308.4 (M+H+), was prepared in accordance with the general method of example 1 from 2,6-dichloroquinoline, 5-methyl-2-furanmethanamine and aminomethylcyclopropane.

reactant | 2,6-dichloroquinoline | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | aminomethylcyclopropane | NCC1CC1 | C4H9N
product | N6-Cyclopropylmethyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,6-diamine | C1(CC1)CNC=1C=C2C=CC(=NC2=CC1)NCC=1OC(=CC1)C | C19H21N3O
